US08138377B2
E. Synthesis of 5-(3,4-dichlorophenyl)bicyclo[3.1.0]hexan-2-amine hydrochloride
To a solution of 5-(3,4-dichlorophenyl)bicyclo[3.1.0]hexan-2-one (100 mg, 0.41 mmol) and anhydrous NaOAc (84 mg, 1.03 mmol) in anhydrous MeOH (5 mL) was added with stirring NH2OH.HCl (152.9 mg, 2.2 mmol). The resulting mixture was stirred at room temperature for 18 h. The reaction mixture was filtered and the filtrate was concentrated in vacuo. The residue, dioxime [IS THIS CORRECT?] was reconstituted in anhydrous MeOH (5 ml) and added to a suspension of anhydrous NiCl2 (116.94 mg, 0.9 mmol) in 5 ml of anhydrous MeOH with stirring. The reaction mixture was cooled to −30° C. and NaBH4 (340.5 mg, 9 mmol) was added in small portions. After completion of the addition the mixture was allowed to warm to room temperature and concentrated in vacuo. This was then basified with aqueous solution of NaOH and extracted with CH2Cl2 (3×). Organic phases were concentrated and the crude was purified by prep. HPLC. The oily product (mixture of isomers) was converted to HCl salt (50 mg, 50.4%). 1H NMR (500 MHz, DMSO-d6) δ ppm 0.79-0.95 (m, 2 H) 1.18-1.34 (m, 2 H) 1.38-1.45 (m, 1 H) 1.65-1.81 (m, 1 H) 1.83-1.92 (m, 1 H) 1.95-2.05 (m, 1 H) 6.32 (s, 2 H) 7.11-7.22 (m, 1 H) 7.23-7.38 (m, 2 H) 8.50 (broad, 1 H). 13C NMR (500 MHz, DMSO-d6) δ ppm 13.85 (s, 1 C) 14.52 (s, 1 C) 16.03 (s, 1 C) 18.45 (s, 1 C) 22.38 (s, 1 C) 23.24 (s, 1 C) 25.02 (s, 1 C) 26.22 (s, 1 C) 26.22 (s, 1 C) 27.48 (s, 1 C) 28.31 (s, 1 C) 28.51 (s, 1 C) 29.79 (s, 1 C) 29.89 (s, 1 C) 31.39 (s, 1 C) 31.99 (s, 1 C) 51.62 (s, 1 C) 52.72 (s, 1 C) 55.87 (s, 1 C) 127.88 (s, 1 C) 127.95 (s, 1 C) 128.06 (s, 1 C) 128.38 (s, 1 C) 128.60 (s, 1C) 130.15 (s, 1 C) 130.24 (s, 1 C) 131.54 (s, 1 C) 131.70 (s, 1 C) 142.26 (s, 1 C) 142.44 (s, 1 C). MS (M+1) 242.1.

reactant | 5-(3,4-dichlorophenyl)bicyclo[3.1.0]hexan-2-one | 0.41 mmol, 100 mg | ClC=1C=C(C=CC1Cl)C12CCC(C2C1)=O | C12H10Cl2O
reactant | NaOAc | 1.03 mmol, 84 mg | CC(=O)[O-].[Na+]
reactant | NH2OH.HCl | 2.2 mmol, 152.9 mg | NO.Cl
reactant | NaBH4 | 9 mmol, 340.5 mg | [BH4-].[Na+]
solvent | MeOH | 5 mL | CO | CH4O
solvent | MeOH | 5 ml | CO | CH4O
catalyst | NiCl2 | 0.9 mmol, 116.94 mg | Cl[Ni]Cl
product | 5-(3,4-dichlorophenyl)bicyclo[3.1.0]hexan-2-amine hydrochloride | Cl.ClC=1C=C(C=CC1Cl)C12CCC(C2C1)N | InChI=1S/C12H13Cl2N.ClH/c13-9-2-1-7(5-10(9)14)12-4-3-11(15)8(12)6-12;/h1-2,5,8,11H,3-4,6,15H2;1H
